US05624942
Synthesis of 2-(3-thienylmethyloxy)-6-(meta-trifluoromethylphenoxy)pyridine (I-4)
To a solution containing meta-trifluoromethylphenol (3.62 g, 0.0045×5.0 mol), sodium hydride (0.89 g, (Ca.60% in mineral oil), 0.0045×5.0 mol) and CuI (0.42 g, 0.0045×0.5 mol) in dimethylformamide, 2-chloro-6-(3-thienylmethyloxy)pyridine (1.0 g, 0.0045 mol) was added and the resultant solution was refluxed for about 3 hours.

reactant | meta-trifluoromethylphenol | 5.0 mol, 3.62 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | sodium hydride | 5.0 mol, 0.89 g | [H-].[Na+]
reactant | 2-chloro-6-(3-thienylmethyloxy)pyridine | 0.0045 mol, 1.0 g | ClC1=NC(=CC=C1)OCC1=CSC=C1 | C10H8ClNOS
solvent | dimethylformamide | CN(C=O)C | C3H7NO
catalyst | CuI | 0.5 mol, 0.42 g | [Cu]I
product | 2-(3-thienylmethyloxy)-6-(meta-trifluoromethylphenoxy)pyridine | S1C=C(C=C1)COC1=NC(=CC=C1)OC1=CC(=CC=C1)C(F)(F)F | C17H12F3NO2S
